Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___.
 
Chief Complaint:
L foot pain

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ HIV on ART, HCV on harvoni, HTN, anemia, COPD, CAD s/p 
multiple stents and bilateral PAD presents with 5 days of 
constant lower left leg pain and swelling at rest.  
 Patient has prior history of LLE angiography done by cardiology 
in ___, but NO history of peripheral vascular stent placement 
or bypass surgery, at least at this facility. Angiography at 
that time showed diffuse plaque throughout the LLE arterial 
tree. Of note, patient insists that he has had peripheral stents 
placed at ___ in the past, but extensive review of the records 
shows that patient only had LLE angiography ___ and was 
supposed to see vascular surgery for discussion of possible 
bypass surgery, but was lost to follow up.  
 Patient recently discharged on ___ for an admission of 
chest pain (which was managed medically) with a hospital course 
significant for poorly controlled hypertension. Since his 
discharge, the patient has had lower extremity ___ leg pain at 
rest, not worse with walking, not improved with positional. He 
also endorses numbness and tingling from the bilateral ankle and 
extending to the plantar surface. He denies buttocks, hip or 
thigh pain. No recent travel. No waking up at night from pain. 
Patient has no history of surgeries in the legs. His last 
peripheral cath in ___ significant for severe bilateral tibial 
disease. Patient is able to ambulate normally, but is limited in 
ambulation by shortness of breath. No ulcers. He otherwise 
denies CP, palpitations, n/v/d/c. Endorses chronic abdominal 
pain and chronic difficulty breathing (COPD), but no change in 
either of these symptoms.  
Over the past 1 week, symptoms have become progressively worse. 
Symptoms at rest and with exertion. No precipitating, 
alleviating, or exacerbating factors. Now also having mild pain 
in L foot, cannot characterize further. This AM while seated in 
a chair, noted severe numbness and associated mild pain of L 
foot, so called his cardiologist's office. It was recommended 
that he come to ED for further evaluation.  
 In the ED initial vitals were 99.3 78 138/57 19 100% RA  
 EKG:  
 Labs/studies notable for: Na 133, K 5.2, BUN 100, Cl 23, BUN 
39, Cr 2.1. CBC with WBC 5.1, H/H 7.___/25.4, Plt 134, MCV 100.  
 Patient was given 75 mg hydralazine.  
 ABI in the ED of 0.89.  
 Ultrasound negative for DVT.  
 Vascular was consulted in the ED. They felt that the patient's 
symptoms were atypical of rest pain and that his symptoms may 
not be arterial in nature. They recommended further workup with 
ABI/PVR.  
 Vitals on transfer: 97.6 65 192/73 11 99% RA 
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___. LAD ___.  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -HFpEF  
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cirrhosis  
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___  
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly.  
 
Physical Exam:
Physical Exam on Admission:

VS: 224 / 100 R Sitting 72 18 99 RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,  

 MMM, good dentition  
 NECK: nontender supple neck, no LAD, JVP just above the 
clavicle  
 CARDIAC: RRR, S1/S2, +S4, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably  
 without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no  
 rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4  
 extremities with purpose  
 PULSES: hyperpigmentation of lower extremities bilaterally, 1+ 
DP on right foot, unable to palpate L DP pulse, distal 
extremities warm to touch with 1+ pitting edema bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no  
 rashes  

Physical Exam on Discharge:
Vitals: Tm 98,2, 117-149/50-61, 68-76, ___, 96-100% on RA
 General:  Sitting up in bed, NAD, smiling, legs crossed
 HEENT:  MMM, anicteric sclera
 Lungs:  CTAB, no wheezes
 CV:  RRR, +holosystolic murmur
 Abdomen:  Soft, NDNT
 Ext:  No edema, unable to palpate DP+ on exam
 Neuro: CN ___ grossly intact. moving extremities with purpose. 
 

 
Pertinent Results:
Labs on Admission:

___ 03:42PM BLOOD WBC-5.1 RBC-2.55* Hgb-7.9* Hct-25.4* 
MCV-100* MCH-31.0 MCHC-31.1* RDW-13.2 RDWSD-47.7* Plt ___
___ 03:42PM BLOOD Neuts-41.1 ___ Monos-9.1 Eos-3.0 
Baso-0.2 Im ___ AbsNeut-2.08# AbsLymp-2.35 AbsMono-0.46 
AbsEos-0.15 AbsBaso-0.01

___ 03:42PM BLOOD Glucose-120* UreaN-39* Creat-2.1* Na-133 
K-5.2* Cl-100 HCO3-23 AnGap-15
___ 07:25AM BLOOD Calcium-9.4 Phos-3.5 Mg-1.4*
___ 03:19PM BLOOD VitB12-1528*

Labs on Discharge:

___ 07:25AM BLOOD WBC-5.4 RBC-2.73* Hgb-8.5* Hct-26.8* 
MCV-98 MCH-31.1 MCHC-31.7* RDW-13.4 RDWSD-48.1* Plt ___
___ 07:09AM BLOOD Glucose-116* UreaN-42* Creat-2.4* Na-133 
K-4.6 Cl-98 HCO3-23 AnGap-17
___ 07:09AM BLOOD Calcium-9.0 Phos-3.2 Mg-1.4*

Microbiology: None

Imaging:
IMAGING:    

___ Imaging ART EXT (REST ONLY)     
IMPRESSION:  
  
Significant bilateral tibial disease, left greater than right at 
rest.  
Exercise is not possible due to IV in the left arm. 

___ in ED:

Doppler U/S w/ no e/o Lower extremity DVT, pulses + on Doppler

 
Brief Hospital Course:
___ HIV on ART, HCV on Harvoni, HTN, anemia, COPD, CAD s/p 
multiple stents and bilateral PAD presents with 5 days of 
non-exertional L plantar foot pain c/w plantar fasciitis. Given 
extensive PAD and diffuse plaques observed on previous angiogram 
(___) patient was evaluated with ABI/PVRs which were 
unchanged from prior, and Doppler U/S which showed present 
pulses on b/l lower ext. Patient w/ no e/o DVT on U/S. Course 
complicated by hypertensive urgency, which resolved when 
patient's home medications were resumed and mild hyperkalemia, 
likely ___ lisinopril. Patient also w/ elevated Cr to 2.4 on day 
of discharge, likely ___ decreased PO intake.

#Plantar Fasciitis: Presented with 5 days of non-exertional L 
plantar foot pain c/w plantar fasciitis. Given extensive PAD and 
diffuse plaques observed on previous angiogram (___) patient 
was evaluated with ABI/PVRs which were unchanged from prior, and 
Doppler U/S which showed present pulses on b/l lower ext. 
Patient evaluated by vascular surgery who was not concerned for 
worsening ischemic disease as etiology of patient's pain, and 
recommended outpatient follow up. Patient counseled on exercises 
and stretches he can do to alleviate symptoms of plantar 
fasciitis.

#Hypertensive Urgency: Patient presented with SBPs in 200s I/s/o 
not taking home BP meds the day prior. Asymptomatic. EKG 
unchanged from prior. BPs well controlled after home medications 
were resumed.

___ on CKD: pre-renal ___, I/s/o poor PO intake. Patient Cr on 
day of discharge mildly elevated from baseline (2.4 up from 
baseline of 2.1), however patient agreed to have close follow up 
with his PCP upon discharge for further monitoring. Continued 
home lisinopril 5 mg daily and home bicarbonate 1300 mg PO TID.  


#Hyperkalemia: Mildly elevated to 5.2, likely ___ recent 
initiation of Lisinopril. Given patient with well controlled 
BPs, only mild elevation, and asymptomatic patient was continued 
on lisinopril.

# Coronary Artery Disease: Pt is s/p Promus DES to mid-LAD, D1 
branch, and distal-RCA on ___, s/p Premier DES to mLCX on 
___, and BMS to LAD ___. He had a Stress MIBI in ___ 
showing partially reversible, large, moderate severity  
perfusion defect involving the LAD territory. On his prior 
admission, and it was decided not to pursue inpatient 
catheterization, but to pursue an outpatient dobutamine 
echocardiogram. Continued home meds: aspirin, carvedilol, 
Pravastatin, Lisinopril.  

 # Anemia: At his baseline range of Hb (7.8-8.8). No signs or 
symptoms of active bleeding.  

 # Thrombocytopenia: Patient with chronic thrombocytopenia, at 
his baseline platelets in the ___. 

# HIV/HCV co infection w/cirrhosis. Per OMR notes, patient's  
 disease is complicated by known portal HTN. Last EGD on ___ 
 
 showed no esophageal varices and last RUQUS ___ for ___  
 screening was notable for cirrhosis w/o lesions suggestive HCC. 
 
 HIV viral load was undetectable during last admission. Patient 
was  
 continued on his home Abacavir, Efavirenz, and Lamivudine.  

# COPD: Patient was continued on his home albuterol inhaler and 
Spiriva.  

# HLD: Patient was continued on his home Pravastatin.   

# GERD: Patient was continued on his home omeprazole.  

=================================================
Transitional issues:
-repeat Cr, K+, consider d/c lisinopril if K+ continues to rise
-repeat BP, titrate BP meds accordingly

#Code status: Full code (from prior admission) 
#HCP: ___, niece ___, mobile: 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
3. Amlodipine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Cyanocobalamin ___ mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Efavirenz 600 mg PO DAILY 
9. HydrALAZINE 100 mg PO Q8H 
10. ipratropium-albuterol ___ mcg/actuation INHALATION QID 
11. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
12. LaMIVudine 100 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Ondansetron 4 mg PO Q8H:PRN nausea 
16. Pravastatin 20 mg PO QPM 
17. Sodium Bicarbonate 1300 mg PO TID 
18. Diltiazem Extended-Release 120 mg PO DAILY 
19. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN stomach 
pain 
20. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
21. Oxybutynin 5 mg PO DAILY 
22. Tolterodine 2 mg PO QHS 
23. Simethicone 40-80 mg PO QID:PRN gas pains 
24. Lisinopril 5 mg PO DAILY 
25. Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed 
26. Polyethylene Glycol 17 g PO DAILY 
27. Senna 8.6 mg PO BID 
28. Acetaminophen 650 mg PO TID 

 
Discharge Medications:
1.  Abacavir Sulfate 300 mg PO BID  
2.  Acetaminophen 650 mg PO TID  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
4.  Amlodipine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Carvedilol 25 mg PO BID  
7.  Cyanocobalamin ___ mcg PO DAILY  
8.  Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed  
9.  Diltiazem Extended-Release 120 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Efavirenz 600 mg PO DAILY  
12.  HydrALAZINE 100 mg PO Q8H  
13.  ipratropium-albuterol ___ mcg/actuation INHALATION QID  
14.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY  
15.  LaMIVudine 100 mg PO DAILY  
16.  Lisinopril 5 mg PO DAILY  
17.  Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN stomach 
pain  
18.  Multivitamins 1 TAB PO DAILY  
19.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
20.  Omeprazole 20 mg PO DAILY  
21.  Ondansetron 4 mg PO Q8H:PRN nausea  
22.  Oxybutynin 5 mg PO DAILY  
23.  Polyethylene Glycol 17 g PO DAILY  
24.  Pravastatin 20 mg PO QPM  
25.  Senna 8.6 mg PO BID  
26.  Simethicone 40-80 mg PO QID:PRN gas pains  
27.  Sodium Bicarbonate 1300 mg PO TID  
28.  Tolterodine 2 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
plantar fasciitis

Secondary Diagnosis
Coronary artery disease
Hypertension
Chronic abdominal pain
Acute Kidney Injury
Chronic kidney Disease
Hyponatremia
Non-anion-gap metabolic acidosis
Anemia
Atelectasis
Thrombocytopenia
Hyperlipidemia
COPD
Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure being involved in your care.

Why you were here:
-You came to the ___ ED because you were having left foot 
numbness and pain. 

What we did while you were here:
-We did studies to evaluate the blood flow in your legs, which 
looked unchanged from past. We also made sure that you did not 
have a clot in your legs with an imaging study (Ultrasound). We 
believe that your pain is from a condition called plantar 
fasciitis. 

Your next steps:
-the stretching exercises we discussed are very helpful for 
plantar fasciitis. It is also helpful to roll your foot over a 
frozen water bottle for relief. 
-appointment with cardiology ___ at ___
-vascular surgery will call you with an appointment to follow up 
in their clinic

-Please call your PCP to make an appointment within the next 2 
weeks:

Name: ___. 
Location: ___ OF ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

We wish you well,
Your ___ Care TEam
 
Followup Instructions:
___